US09079853B2
1-ethyl-3-hydroxy-5-methyl-3-(3,4,5-trimethoxybenzyl)indolin-2-one
Alternative route: To an oven dried Biotage microwave vial cooled under argon was added 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate (0.053 grams, 0.11 mmol). This was taken up in 0.6 mL of methanol, 0.6 mL of deionized water. A solution of KOH (223 μl, 2.0M in water) was added and the sealed vial was placed in the microwave and heated to 130° C. for 12 minutes, and 18 minutes at 140° C. Upon cooling the solution was neutralized with a stoichiometric amount of glacial acetic acid (Fisher scientific), and concentrated. Purification on a Teledyne ISCO using a C18 reverse phase column (water with 0.1% formic acid/acetonitrile gradient) afforded the desired compound. 85% yield. 1H NMR 7.22 (s, 1H), 7.08 (d, 1H), 6.55 (d, 1H), 6.06 (s, 2H), 4.38 (bs, OH), 3.72 (s, 3H), 3.66 (m, 1H), 3.61 (s, 6H), 3.34 (m, 1H), 3.23 (d, 1H), 3.17 (d, 1H), 2.35 (s, 3H), 0.87 (t, 3H). Calculated mass for C21H25NO5, 371.43. Observed 394.1 (M+Na)

reactant | 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate | 0.11 mmol, 0.053 grams | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CC)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C28H29NO6
reactant | water | 0.6 mL | O | H2O
reactant | KOH | 2.0M, 223 μl | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 0.6 mL | CO | CH4O
product | 1-ethyl-3-hydroxy-5-methyl-3-(3,4,5-trimethoxybenzyl)indolin-2-one | 85% yield | C(C)N1C(C(C2=CC(=CC=C12)C)(CC1=CC(=C(C(=C1)OC)OC)OC)O)=O | C21H25NO5
